Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
melena
 
Major Surgical or Invasive Procedure:
EGD - ___

 
History of Present Illness:
___ with HTN, HLD presenting with melena from PCP after recent
EGD. He underwent an EGD on ___ by Dr. ___, with multiple
4-12 mm polypectomies removed via snare. He reports that the day
after, he developed black stools, which persisted until
yesterday, and have now improved to brown stools. He denies any
nausea, vomiting, lightheadedness, chest pain, shortness of
breath. He currently is asymptomatic. He was previously taking a
baby aspirin, which he held prior to his EGD, and then restarted
the night after his EGD (patient is unsure of whether he was
instructed to do this).

In the ED, initial VS were 97.6 109 20 95% RA.
He was found to have light brown guaiac positive stool, no gross
blood.
He received a 1L NS bolus and IV pantoprazole.
GI recommended admission given drop in H/H and tachycardia. 
Upon arrival to the floor, the patient tells the story as
follows.

He reports that he is not sure he needed to be in the hospital
and was sent here under "false pretenses." His CBC was checked 
at
___ and read to have a WBC of 60,000, which on arrival at 
___,
was actually found to be 6,000.  Immediately after his 
endoscopy,
he reports that he wasn't feeling that great but wasn't feeling
that good. He reports the day after, he noticed black and tarry
stools which he had never had before. He had four days of tarry
stools, however, over the last two days, his stools have been
improving and subsequently became normal. He reports one
subjective fever, but he did not measure it. He otherwise denies
lightheadedness, shortness of breath, chest pain, abnormal 
weight
loss, nausea, vomiting, bruising or new rash. He did take his
aspirin following the EGD and also took one dose of naproxen for
his chronic back pain.

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 

 
Past Medical History:
- HTN
- HLD
- Sessile polyps in fundus s/p polypectomy
- GERD
- Chronic low back pain with sciatica
- Squamous cell carcinoma of the eyelid
 
Social History:
___
Family History:
+ unclear history of low platelets or anemia in his mother
 
Physical ___:
ADMISSION
VITALS: 98.7 PO 122 / 66 94 18 95% RA 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
Mucous membranes moist 
CV: Heart regular, no murmur
RESP: Lungs clear to auscultation with good air movement
bilaterally
GI: Abdomen soft, non-distended, non-tender to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs
PSYCH: pleasant, appropriate affect

DISCHARGE
VS: ___ 0818 Temp: 98.4 PO BP: 137/69 HR: 97 RR: 18 O2 sat:
94% O2 delivery: RA 
Gen - sitting up in bed, comfortable
Eyes - EOMI
ENT - OP clear, dry MM
Heart - RRR no mrg
Lungs - CTA bilaterally
Abd - soft nontender, normal bowel sounds 
Ext - no edema
Skin - no rashes
Vasc - 2+ DP/radial pulses
Neuro - AOx3, moving all extremities
Psych - appropriate
 
Pertinent Results:
ADMISSION
___ 06:55PM BLOOD WBC-6.3 RBC-3.30* Hgb-9.4* Hct-28.3* 
MCV-86 MCH-28.5 MCHC-33.2 RDW-14.7 RDWSD-45.1 Plt Ct-63*
___ 06:55PM BLOOD ___ PTT-27.1 ___
___ 06:55PM BLOOD Glucose-99 UreaN-17 Creat-0.9 Na-139 
K-4.0 Cl-101 HCO3-23 AnGap-15
___ 07:40AM BLOOD Calcium-9.1 Phos-2.9 Mg-1.8

DISCHARGE
___ 07:40AM BLOOD WBC-4.7 RBC-3.25* Hgb-9.2* Hct-27.9* 
MCV-86 MCH-28.3 MCHC-33.0 RDW-14.9 RDWSD-45.5 Plt Ct-60*
___ 07:40AM BLOOD Glucose-111* UreaN-13 Creat-0.8 Na-141 
K-3.8 Cl-101 HCO3-27 AnGap-13

___ - EGD - please see report in OMR
 
Brief Hospital Course:
This is a ___ year old male with past medical history of 
hypertension, hyperlipidemia, recent EGD done for GERD workup 
showing "Serrated Z-line in the distal esophagus" that was 
biopsied and "Multiple 4-12 mm sessile polyps in the body and 
fundus of the stomach" that were removed by snare, who was 
admitted ___ with acute blood loss anemia and melenotic 
stools, subsequent repeat EGD showing visible vessel at one of 
the polypectomy sites, which was clipped, able to be discharged 
home.

# Acute blood loss anemia secondary to 
# Upper GI bleed, suspected
Patient presented in setting of recent upper endoscopy with 
biopsies at distal
esophagus and snare removal of gastric polyps, reporting melena. 
 Hgb was 9 from prior baseline of ___.  He reported recent use 
of NSAIDs following his initial endoscopy.  Patient was seen by 
GI consult service and underwent repeat endoscopy that showed 
visible vessel at one of the polypectomy sites, which was 
clipped.  Patient subsequently stable.  GI recommended 8 weeks 
of BID PPI before returning to his prior daily PPI frequency.  
Counseled re: cessation of NSAIDs.  Held primary prevention ASA. 
 Discharge Hgb 9.2

# Hyperlipidemia
Continued statin.  Held primary prevention ASA as above--can 
consider addressing at ___.  

# Hypertension
Continued amlodipine, lisinopril 

# Thrombocytopenia 
This admission patient noted to have platelet count ~60k from 
prior values of 113-128k; suspect acute decrease may have 
related to consumption in setting of GI bleed; stable during 
this admission; could consider workup of chronic 
thrombocytopenia if not already done; discharge platelets = 60k; 


Transitional issues
- Discharged home
- Recommended for BID PPI x 8 weeks before returning to his 
prior daily dosing of this PPI 
- Counseled patient on avoiding all NSAIDs
- Held primary prevention ASA at discharge until PCP ___ 
would consider risk/benefit re: restarting 
- Discharge Hgb = 9.2; consider recheck at ___ 

> 30 minutes spent on this discharge
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Naproxen 500 mg PO BID 
2. amLODIPine 5 mg PO DAILY 
3. Lisinopril 40 mg PO DAILY 
4. Aspirin EC 81 mg PO DAILY 
5. Simvastatin 40 mg PO QPM 
6. Multivitamins 1 TAB PO DAILY 
7. Pantoprazole 40 mg PO Q24H 

 
Discharge Medications:
1.  Pantoprazole 40 mg PO Q12H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth every twelve (12) 
hours Disp #*28 Tablet Refills:*0 
2.  amLODIPine 5 mg PO DAILY  
3.  Lisinopril 40 mg PO DAILY  
4.  Multivitamins 1 TAB PO DAILY  
5.  Simvastatin 40 mg PO QPM  
6. HELD- Aspirin EC 81 mg PO DAILY  This medication was held. Do 
not restart Aspirin EC until you see your primary care doctor

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# Acute blood loss anemia secondary to 
# Upper GI bleed, suspected
# Hyperlipidemia
# Hypertension
# Thrombocytopenia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___: 

It was a pleasure caring for you at ___.  You were admitted 
with bleeding from you GI tract.  You were seen by GI doctors 
and ___ endoscopy.  It showed a blood vessel at the 
site of your recent polyp removal--the GI doctors believe that 
this was likely the source of your bleeding.  They placed a clip 
to help reduce the risk of recurrent bleeding.  You are now 
ready for discharge home

It is important for you to avoid all NSAIDs for the next 8 
weeks.  Please discuss this with your primary care physician.  

It will also be important for you to take your protonix 
(pantoprazole) twice a day every day for the next 8 weeks before 
you return to taking it at your normal daily (once a day) 
dosing.  This will help your stomach heal and reduce the risk of 
additional bleeding. 
 
Followup Instructions:
___